US08754114B2
Step 2: N-(3-{7-[1-(2-cyano-1-methylethyl)-1H-pyrazol-4-yl]imidazo[1,2-b]pyridazin-3-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea
To a solution of N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea (15 mg, 0.037 mmol) and 2-butenenitrile (3.8 mg, 0.056 mmol) in acetonitrile (0.5 mL) and methanol (0.2 mL) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (5.6 μL, 0.037 mmol). The mixture was stirred at 60° C. overnight. The reaction mixture was stirred at 60° C. overnight. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=469.1.

reactant | N-{3-[7-(1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | 0.037 mmol, 15 mg | N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C18H14F3N7O
reactant | 2-butenenitrile | 0.056 mmol, 3.8 mg | C(C=CC)#N | C4H5N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.037 mmol, 5.6 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | methanol | 0.2 mL | CO | CH4O
product | N-(3-{7-[1-(2-cyano-1-methylethyl)-1H-pyrazol-4-yl]imidazo[1,2-b]pyridazin-3-yl}phenyl)-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC(C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C22H19F3N8O
